US05183825
Ethyl-α-(2-naphthalenylmethyl)-butyrylacetate was prepared following the procedure of Example 2 from 2.18 g of sodium, 15 g of ethyl butyrylacetate and 21 g of 2-naphthalenylmethyl bromide in 300 mL ethanol-THF (10:1). The crude product was purified by removal of excess starting β-keto ester using a kugelrohr apparatus (oven ≤100° C./0.50 mm).

reactant | sodium | 2.18 g | [Na] | Na
reactant | ethyl butyrylacetate | 15 g | C(CCC)(=O)CC(=O)OCC | C8H14O3
reactant | 2-naphthalenylmethyl bromide | 21 g | C1=C(C=CC2=CC=CC=C12)CBr | C11H9Br
solvent | ethanol THF | 300 mL | C(C)O.C1CCOC1
product | Ethyl-α-(2-naphthalenylmethyl)-butyrylacetate | C(C)OC(C(CC1=CC2=CC=CC=C2C=C1)C(CCC)=O)=O | C19H22O3
